US06184225B2
Triethylamine (216 ml, 1.5 mmol) and then acetic anhydride (133 ml, 1.4 mmol) were added to a stirred suspension of 7-benzyloxy-4-(4-chloro-2-fluoro-5-hydroxyanilino)-6-methoxy quinazoline hydrochloride (600 mg, 1.4 mmol) in methylene chloride (7 ml). The mixture was stirred at ambient temperature for 3 hours and insoluble material removed by filtration. Volatiles were removed from the filtrate by evaporation and the residue purified by flash chromatography eluting with methylene chloride/methanol (100/0 increasing in polarity to 97/3) to give 4-(5-acetoxy-4-chloro-2-fluoroanilino)-7-benzyloxy-6-methoxyquinazoline (340 mg, 52%) as a solid.

reactant | Triethylamine | 1.5 mmol, 216 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 1.4 mmol, 133 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 7-benzyloxy-4-(4-chloro-2-fluoro-5-hydroxyanilino)-6-methoxy quinazoline hydrochloride | 1.4 mmol, 600 mg | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C(=C1)O)Cl)F)OC
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
product | 4-(5-acetoxy-4-chloro-2-fluoroanilino)-7-benzyloxy-6-methoxyquinazoline | 340 mg, 52% | C(C)(=O)OC=1C(=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2=CC=CC=C2)C1)F)Cl | C24H19ClFN3O4
